* ============================================================================
* Common Cathode 12AU7 Triode Amplifier
* PedalKernel Validation Circuit — Single triode nonlinear stage
* ============================================================================
* Medium-mu triode (mu≈21.5) used in driver/buffer stages.
* Uses the same Koren macromodel structure as common_cathode_12ax7.spice
* with parameters matched to pedalkernel/models/triodes.model.
*
* Operating point: Vp ≈ 130V, Vg ≈ -8V, Ip ≈ 4mA (auto-bias via Rk)
* Voltage gain: ~-14 (lower mu → lower gain than 12AX7)
* ============================================================================
* Convergence recipe: explicit .ic on coupling caps + relaxed RELTOL
.OPTIONS RELTOL=5e-3 METHOD=TRAP DELMAX=10u ITL4=100

* B+ supply
VB vb 0 DC 250

* Plate load
RP vb v_plate 33k

* Coupling cap (input) — explicit IC avoids DC convergence issues
CIN v_in v_grid 22n IC=0

* Grid leak resistor
RG v_grid 0 1MEG

* AC input signal source (1kHz, 500mV peak — realistic preamp drive)
VIN v_in 0 SIN(0 0.5 1000)

* Triode (12AU7 section A)
X1 v_plate v_grid v_cathode TRIODE_12AU7

* Cathode resistor + bypass cap — IC=0 on bypass cap
RK v_cathode 0 820
CK v_cathode 0 25u IC=0

* Output coupling cap
COUT v_plate v_out 22n IC=0

* Output load
RLOAD v_out 0 1MEG

* ============================================================================
* 12AU7 Triode Model — Koren equations
* Parameters from pedalkernel/models/triodes.model (Koren 1996)
* MU=21.5 EX=1.3 KG1=1180 KP=84 KVB=300
* ============================================================================
.SUBCKT TRIODE_12AU7 anode grid cathode
.PARAM MU=21.5 EX=1.3 KG1=1180 KP=84 KVB=300

* Internal nodes for Vgk and Vak
Bgk gk 0 V = V(grid,cathode)
Bak ak 0 V = V(anode,cathode)

* Plate current as behavioral current source (Koren equation)
* E1 = KP * (1/MU + Vgk / sqrt(KVB + Vak^2))
* Ip = (MAX(Vak,0)/KP * ln(1+exp(E1)))^EX / KG1, clipped for Vak<0
Bip anode cathode I = {
+ (PWR(
+   LOG(1 + EXP(KP * (1/MU + V(gk)/SQRT(KVB + PWR(V(ak),2)))))
+   * MAX(V(ak), 0.001) / KP,
+   EX)
+ / KG1)
+ * (1 + SGN(LOG(1 + EXP(KP * (1/MU + V(gk)/SQRT(KVB + PWR(V(ak),2))))) * MAX(V(ak),0.001) / KP)) / 2
+ }

* Grid current (diode model for grid conduction)
Dgc grid cathode DGRID
.MODEL DGRID D(IS=1e-12 N=1.5 RS=1k)

.ENDS TRIODE_12AU7

* ============================================================================
* Analysis
* ============================================================================
* Transient: 5ms, timestep 5us (captures steady-state at 1kHz)
.TRAN 5u 5m UIC

* Operating point
.OP

* Measure output voltage and compute THD
.MEAS TRAN vout_rms RMS V(v_out) FROM=2m TO=5m
.MEAS TRAN vout_peak MAX V(v_out) FROM=2m TO=5m
.MEAS TRAN vout_min  MIN V(v_out) FROM=2m TO=5m

* Fourier analysis at 1kHz for harmonic content
.FOUR 1000 9 V(v_out)

.END
